US09278986B2
1.0 g of 9-(2-bromophenyl)-9H-carbazole as the intermediate of Preparation Example 8 was dissolved in 10 mL of purified tetrahydrofuran, and the resulting solution was cooled to −78° C., and 1.613 mL of butyllithium was slowly added dropwise. The mixture was stirred at the same temperature for 30 min, and 1.05 g of 4-bromobenzophenone was added. The mixture was stirred at the same temperature for 40 min and then further stirred at room temperature for an additional 3 hours. The reaction was terminated with aqueous ammonium chloride, and the reaction mixture was extracted with ethyl ether. The organic layer was dewatered using anhydrous magnesium sulfate, and the organic solvent was then removed. The resulting solid was dispersed in ethanol, stirred for one day, filtered, and vacuum dried, thus obtaining an intermediate material. The solid thus obtained was dispersed in 10 mL of acetic acid, and 10 drops of concentrated sulfuric acid were added, after which the mixture was refluxed for 4 hours. The resulting solid was filtered, washed with ethanol, and vacuum dried, yielding a 8-(4-bromophenyl)-8-phenyl -8H-indolo-[3,2,1-de]acridine compound.

reactant | 9-(2-bromophenyl)-9H-carbazole | 1.0 g | BrC1=C(C=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
reactant | butyllithium | 1.613 mL | C(CCC)[Li]
reactant | 4-bromobenzophenone | 1.05 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 8-(4-bromophenyl)-8-phenyl -8H-indolo-[3,2,1-de]acridine | BrC1=CC=C(C=C1)C1(C=2C=CC=CC2N2C3=C(C=CC=C13)C=1C=CC=CC12)C1=CC=CC=C1 | C31H20BrN
